US07601714B2
4-({[trans-4-(ethylamino)cyclohexyl]methyl}amino)-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile
4-{[(trans-4-Aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile (150 mg, 0.36 mmol) was dissolved in a solution of 1% AcOH in MeOH. The solution was cooled to 0° C. and to this cold solution were added NaBH(OAc)3 and acetaldehyde. The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was then treated with saturated NaHCO3 and extracted with EtOAc. The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using 9:1:0.1 CH2Cl2:MeOH:NH4OH as an eluent to afford 24 mg (15%) of the title compound, m/z 449.4 (M+1)+.

reactant | 4-{[(trans-4-Aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile | 0.36 mmol, 150 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C20H23F3N6O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
product | 4-({[trans-4-(ethylamino)cyclohexyl]methyl}amino)-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile | 24 mg, 15% | C(C)N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C22H27F3N6O
